US08912210B2
Step B: tert-Butyl[(3S,5S,6R)-6-methyl-5-(2-methylphenyl)-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate
To a solution of methyl N-(tert-butoxycarbonyl)-4-(2-methylphenyl)-5-oxonorleucinate (1.60 g, 4.58 mmol) in dichloroethane (23 mL) were added glacial acetic acid (0.524 mL, 9.16 mmol), 2,2,2-trifluoroethylamine (1.83 mL, 22.9 mmol) and 4 Å molecular sieves (500 mg). The mixture was stirred at 23° C. for 20 min and then sodium triacetoxyborohydride (4.85 g, 22.89 mmol) was added. The mixture was stirred at 23° C. for 18 h. The mixture was diluted with water and extracted with ethyl acetate (3×). Molecular sieves were removed by filtration and the combined organic extracts were washed with water, brine, dried over sodium sulfate, filtered and concentrated. A solution of the residue in ethanol (45 mL) was stirred in the presence of solid potassium carbonate (1.86 g, 13.49 mmol) at 60° C. for 2 h. The bulk of the ethanol was removed under reduced pressure and the remaining slurry was then partitioned between water (25 mL) and ethyl acetate (150 mL). The organic layer was washed with brine, dried over sodium sulfate and concentrated. Purification by silica gel chromatography (5% ethyl acetate→50% ethyl acetate/hexane) was followed by separation of the enantiomers using normal-phase HPLC using a ChiralPak® AD column, eluting with 20% hexane in ethanol (0.1% diethylamine used as a modifier) to afford the title compound as the second enantiomer to elute. MS: m/z=423.2 (M+Na).

reactant | methyl N-(tert-butoxycarbonyl)-4-(2-methylphenyl)-5-oxonorleucinate | 4.58 mmol, 1.60 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C(C)=O)C1=C(C=CC=C1)C)C(=O)OC | C19H27NO5
reactant | acetic acid | 9.16 mmol, 0.524 mL | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trifluoroethylamine | 22.9 mmol, 1.83 mL | FC(CN)(F)F | C2H4F3N
reactant | sodium triacetoxyborohydride | 22.89 mmol, 4.85 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 13.49 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloroethane | 23 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | tert-Butyl[(3S,5S,6R)-6-methyl-5-(2-methylphenyl)-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=C(C=CC=C1)C)C)CC(F)(F)F)=O)=O | C20H27F3N2O3
